US06124354
2-(Diethylamino)ethyl 1-(2-thienyl)cyclopentanecarboxylate Hydrochloride
1-(2-thienyl)cyclopentanecarboxylic acid (3.1 mmol), prepared in Example 94 above, was refluxed with SOCl2 (0.6 mL) in 4 mL toluene. After 4 h, the reaction mixture was evaporated and the residue was dissolved in toluene. 2-Diethylaminoethanol (9.3 mmol) was added and the mixture was stirred at room temperature overnight. The crude was chromatographed on silica gel using toluene-Et3N 95:5 as eluent. The yield was 0.79 g (76%); mp 122-123° C.; 1H NMR (CDCl3) δ 1.28 (t, 6H), 1.75 (m, 4H), 2.13 (m, 2H), 2.50 (m, 2H), 2.92 (m, 4H), 3.22 (m, 2H), 4.60 (t, 2H), 6.95 (dd, 2H), 7.19 (dd, 1H), 12.4 (br, 1H). Anal. (C16H25NO2S.HCl) C, H, N.

reactant | 1-(2-thienyl)cyclopentanecarboxylic acid | 3.1 mmol | S1C(=CC=C1)C1(CCCC1)C(=O)O | C10H12O2S
reactant | SOCl2 | 0.6 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-Diethylaminoethanol | 9.3 mmol | C(C)N(CCO)CC | C6H15NO
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(Diethylamino)ethyl 1-(2-thienyl)cyclopentanecarboxylate Hydrochloride | Cl.S1C(=CC=C1)C1(CCCC1)C(=O)OCCN(CC)CC | InChI=1S/C16H25NO2S.ClH/c1-3-17(4-2)11-12-19-15(18)16(9-5-6-10-16)14-8-7-13-20-14;/h7-8,13H,3-6,9-12H2,1-2H3;1H
